US04061656
3.04 G. of 2,4-dimethyl-5-chloro-thiophene are dissolved in 60 ml. of acetic acid and 2.1 g. of formalin and 32 ml. of concentrated hydrochloric acid are added. The mixture is stirred at room temperature for 2 hours, then poured into ice water and extracted with hexane. The organic solution is washed with 5% sodium bicarbonate solution, dried, filtered and evaporated to yield 2,4-dimethyl-3-chloromethyl-5-chloro-thiophene.

reactant | 2,4-dimethyl-5-chloro-thiophene | CC=1SC(=C(C1)C)Cl | C6H7ClS
reactant | formalin | C=O | CH2O
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 2,4-dimethyl-3-chloromethyl-5-chloro-thiophene | CC=1SC(=C(C1CCl)C)Cl | C7H8Cl2S
